* Simple RLC Series Circuit - Transient Analysis Test
V1 IN 0 PULSE(0 5 0 1n 1n 10m 20m)
R1 IN N1 100
L1 N1 N2 10mH
C1 N2 0 1uF

.TRAN 1u 20m 0
.PRINT TRAN FORMAT=RAW FILE=tran-simple-01.raw V(*) I(*)
.FFT I(L1) NP=1024 WINDOW=HANN
.FFT I(C1) NP=1024 WINDOW=HANN
.FFT I(C1) NP=2048 WINDOW=HANN FORMAT=UNORM

.END